US04789683
(-)-N-n-propyl-2-(3-bromo-2,6 -dimethoxybenzamidomethyl)pyrrolidine
The title compound was prepared from 3-bromo-2,6-dimethoxybenzoic acid via the acylchloride and (-)-1-n-propyl-2-(aminomethyl)pyrrolidine in the same manner as described in Example 8. Yield 79%. M.p. 103°-104° C. [α]D20 =-85.4° (c=0.5; CHCl3).

reactant | 3-bromo-2,6-dimethoxybenzoic acid | BrC=1C(=C(C(=O)O)C(=CC1)OC)OC | C9H9BrO4
reactant | (-)-1-n-propyl-2-(aminomethyl)pyrrolidine | C(CC)N1C(CCC1)CN | C8H18N2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (-)-N-n-propyl-2-(3-bromo-2,6 -dimethoxybenzamidomethyl)pyrrolidine | Yield 79% | C(CC)N1C(CCC1)CNC(C1=C(C(=CC=C1OC)Br)OC)=O | C17H25BrN2O3
